US07381746B2
7.7 mL of a solution of 1M trimethylphosphine/tetrahydrofuran was added to 3.35 g of (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 100 mL of tetrahydrofuran and 10 mL of water, and the mixture was stirred for 1 hour at room temperature. The mixture was diluted with 200 mL of diethyl ether, and after 50 mL of a saturated aqueous solution of sodium hydrogen carbonate was added thereto, the mixture was stirred for 1.5 hours at room temperature. After separation, the organic layers were washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was diluted with chloroform, and then silica gel (Wako gel C200 (made by Wako Pharmaceutical Industries Ltd.)) was added thereto. The mixture was concentrated under reduced pressure, left to stand for 18 hours at room temperature, and then purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=2:1), thereby yielding 2.78 g of (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | trimethylphosphine tetrahydrofuran | 1M | CP(C)C.O1CCCC1
reactant | (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 3.35 g | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1SCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N=[N+]=[N-] | C19H20Cl2FN3O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 2.78 g | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1SCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N | C19H22Cl2FNO4S
